### PR TITLE
[Merged by Bors] - feat: lemmas on permutations, cycles, etc.

### PR DESCRIPTION
**Pull request by AntoineChambert-Loir**
This PR establishes various lemmas in the theory of permutation groups,
pertaining to the supports, cycle decompositions, and the conjugation action
of `ConjAct (Equiv.Perm α)` on `Equiv.Perm α`

This lemmas stem out PR #9359 and are used there to compute the cardinalities
of the conjugacy classes of permutations.

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/GroupTheory/Perm/Support.lean [hunk 1]
```diff
@@ -323,6 +323,13 @@ theorem support_congr (h : f.support ⊆ g.support) (h' : ∀ x ∈ g.support, f
     exact fun H => hx (h H)
 #align equiv.perm.support_congr Equiv.Perm.support_congr
 
+/-- If g and c commute, then g stabilizes the support of c -/
+theorem mem_support_of_commute {g c : Perm α} (hgc : Commute g c) (x : α) :
```
Comment (riccardobrasca) [inline Mathlib/GroupTheory/Perm/Support.lean:327]:
```suggestion
theorem mem_support_iff_of_commute {g c : Perm α} (hgc : Commute g c) (x : α) :
```

File: Mathlib/GroupTheory/Perm/Cycle/Basic.lean [hunk 2]
```diff
@@ -1510,21 +1510,114 @@ theorem cycle_is_cycleOf {f c : Equiv.Perm α} {a : α} (ha : a ∈ c.support)
...
-  -- a est dans le support de c, donc pas dans celui de g c⁻¹
-  exact
-    Equiv.Perm.not_mem_support.mp
-      (Finset.disjoint_left.mp (Equiv.Perm.Disjoint.disjoint_support hfc) ha)
+  -- a belongs to the support of c, hence not to that of g * c⁻¹
+  exact not_mem_support.mp (Finset.disjoint_left.mp (Disjoint.disjoint_support hfc) ha)
 #align equiv.perm.cycle_is_cycle_of Equiv.Perm.cycle_is_cycleOf
 
+theorem eq_cycleOf_of_mem_cycleFactorsFinset_iff
+    (g c : Perm α) (hc : c ∈ g.cycleFactorsFinset) (x : α) :
```
Comment (riccardobrasca) [inline Mathlib/GroupTheory/Perm/Cycle/Basic.lean:1523]: Here `g` and `c` can be implicit, but keep as you think it is better.

File: Mathlib/GroupTheory/Perm/Cycle/Basic.lean [hunk 3]
```diff
@@ -1510,21 +1510,114 @@ theorem cycle_is_cycleOf {f c : Equiv.Perm α} {a : α} (ha : a ∈ c.support)
...
+    c = g.cycleOf x ↔ x ∈ c.support := by
+  refine ⟨?_, (cycle_is_cycleOf · hc)⟩
+  rintro rfl
+  rw [mem_support, cycleOf_apply_self, Ne.def, ← cycleOf_eq_one_iff]
+  exact (mem_cycleFactorsFinset_iff.mp hc).left.ne_one
+
+/-- A permutation `c` is a cycle of `g` iff `k * c * k⁻¹` is a cycle of `k * g * k⁻¹` -/
```
Comment (riccardobrasca) [inline Mathlib/GroupTheory/Perm/Cycle/Basic.lean:1530]: The sense of the double implication is swapped in the docstring wrt to the actual statement. Also, I would call it `mem_cycleFactorsFinset_iff`.

File: Mathlib/GroupTheory/Perm/Cycle/Basic.lean [hunk 4]
```diff
@@ -1510,21 +1510,114 @@ theorem cycle_is_cycleOf {f c : Equiv.Perm α} {a : α} (ha : a ∈ c.support)
...
+  rw [mem_support] at ha ⊢
+  contrapose! ha
+  simp only [mul_smul, ← Perm.smul_def] at ha ⊢
+  rw [ha]
+  simp only [Perm.smul_def, apply_inv_self]
+
+/- NB. The converse of the next theorem is false. Commuting with every cycle of `g`
+  means that we belong to the kernel of the action of `Equiv.Perm α` on `g.cycleFactorsFinset` -/
+/-- If a permutation commutes with every cycle of `g`, then it commutes with `g` -/
+theorem commute_of_mem_cycleFactorsFinset_commute (k g : Perm α)
```
Comment (riccardobrasca) [inline Mathlib/GroupTheory/Perm/Cycle/Basic.lean:1555]: Also here `k` and `g` could be implicit.

File: Mathlib/GroupTheory/Perm/Cycle/Basic.lean [hunk 5]
```diff
@@ -1978,3 +2071,213 @@ theorem _root_.Finset.sum_mul_sum_eq_sum_perm (hσ : σ.IsCycleOn s) (f g : ι 
 #align finset.sum_mul_sum_eq_sum_perm Finset.sum_mul_sum_eq_sum_perm
 
 end Finset
+
+theorem subtypePerm_apply_pow_of_mem (g : Perm α) (s : Finset α)
+    (hs : ∀ x : α, x ∈ s ↔ g x ∈ s) (n : ℕ) (x : α) (hx : x ∈ s) :
+    ((g.subtypePerm hs ^ n) (⟨x, hx⟩ : s) : α) = (g ^ n) x := by
+  revert x
+  induction' n with n hrec
```
Comment (riccardobrasca) [inline Mathlib/GroupTheory/Perm/Cycle/Basic.lean:2079]: Can you use `induction` instead of `induction'`? The latter sooner or later will be removed.

File: Mathlib/GroupTheory/Perm/Cycle/Basic.lean [hunk 6]
```diff
@@ -1978,3 +2071,213 @@ theorem _root_.Finset.sum_mul_sum_eq_sum_perm (hσ : σ.IsCycleOn s) (f g : ι 
 #align finset.sum_mul_sum_eq_sum_perm Finset.sum_mul_sum_eq_sum_perm
 
 end Finset
+
+theorem subtypePerm_apply_pow_of_mem (g : Perm α) (s : Finset α)
```
Comment (riccardobrasca) [inline Mathlib/GroupTheory/Perm/Cycle/Basic.lean:2075]: Here there a bunch of variables that can be implicit.

File: Mathlib/GroupTheory/Perm/Cycle/Basic.lean [hunk 7]
```diff
@@ -1978,3 +2071,213 @@ theorem _root_.Finset.sum_mul_sum_eq_sum_perm (hσ : σ.IsCycleOn s) (f g : ι 
...
+  induction' n with n hrec
+  · -- zero case
+    intro x hx
+    simp only [pow_zero, coe_one, id.def, Subtype.coe_mk]
+  · -- induction case
+    intro x hx
+    simp only [pow_succ', coe_mul, Function.comp_apply]
+    apply hrec
+
+theorem subtypePerm_apply_zpow_of_mem (g : Perm α) (s : Finset α)
```
Comment (riccardobrasca) [inline Mathlib/GroupTheory/Perm/Cycle/Basic.lean:2088]: Same here for implicit variables.

File: Mathlib/GroupTheory/Perm/Cycle/Basic.lean [hunk 8]
```diff
@@ -1978,3 +2071,213 @@ theorem _root_.Finset.sum_mul_sum_eq_sum_perm (hσ : σ.IsCycleOn s) (f g : ι 
...
+  apply subtypePerm_apply_pow_of_mem
+  -- neg_succ case
+  simp only [zpow_negSucc]
+  apply Equiv.injective (g ^ (i + 1))
+  simp only [apply_inv_self]
+  rw [← subtypePerm_apply_pow_of_mem g s hs, Finset.mk_coe, apply_inv_self, Subtype.coe_mk]
+  apply Finset.coe_mem
+
+variable [Fintype α]
+/-- Restrict a permutation to its support -/
```
Comment (riccardobrasca) [inline Mathlib/GroupTheory/Perm/Cycle/Basic.lean:2102]:
```suggestion
variable [Fintype α]

/-- Restrict a permutation to its support -/
```

File: Mathlib/GroupTheory/Perm/Cycle/Basic.lean [hunk 9]
```diff
@@ -1978,3 +2071,213 @@ theorem _root_.Finset.sum_mul_sum_eq_sum_perm (hσ : σ.IsCycleOn s) (f g : ι 
...
+    by_cases hx : x ∈ s
+    · rw [ofSubtype_apply_of_mem]
+      simp only [subtypePerm_zpow, subtypePerm_apply]
+      exact hx
+    · rw [ofSubtype_apply_of_not_mem, ← not_mem_support]
+      exact fun hx' ↦ hx (hc (support_zpow_le _ _ hx'))
+      exact hx
+
+
+theorem cycle_zpow_mem_support_iff {g : Perm α}
```
Comment (riccardobrasca) [inline Mathlib/GroupTheory/Perm/Cycle/Basic.lean:2244]:
```suggestion
      exact hx

theorem cycle_zpow_mem_support_iff {g : Perm α}
```

**Review by riccardobrasca — COMMENTED** [review]
`Mathlib/GroupTheory/Perm/Cycle/Basic.lean` is getting super long and we should probably split it (in another PR), especially taking into account the [new linter](https://leanprover.zulipchat.com/#narrow/stream/287929-mathlib4/topic/Linter.20for.20large.20files.3F).

File: Mathlib/GroupTheory/Perm/Cycle/Basic.lean (hunk 3 above)
Comment (AntoineChambert-Loir) [reply Mathlib/GroupTheory/Perm/Cycle/Basic.lean:1530]: I changed the docstring and the name.

File: Mathlib/GroupTheory/Perm/Cycle/Basic.lean (hunk 5 above)
Comment (AntoineChambert-Loir) [reply Mathlib/GroupTheory/Perm/Cycle/Basic.lean:2079]: Yes. I did it throughout that file.

File: Mathlib/GroupTheory/Perm/Cycle/Basic.lean (hunk 6 above)
Comment (AntoineChambert-Loir) [reply Mathlib/GroupTheory/Perm/Cycle/Basic.lean:2075]: Yes. And the next one as well.

File: Mathlib/GroupTheory/Perm/Cycle/Basic.lean (hunk 9 above)
Comment (AntoineChambert-Loir) [reply Mathlib/GroupTheory/Perm/Cycle/Basic.lean:2253]: oups

File: Mathlib/GroupTheory/Perm/Cycle/Basic.lean (hunk 2 above)
Comment (AntoineChambert-Loir) [reply Mathlib/GroupTheory/Perm/Cycle/Basic.lean]: I made them implicit

File: Mathlib/GroupTheory/Perm/Cycle/Basic.lean [hunk 10]
```diff
@@ -1978,3 +2080,213 @@ theorem _root_.Finset.sum_mul_sum_eq_sum_perm (hσ : σ.IsCycleOn s) (f g : ι 
 #align finset.sum_mul_sum_eq_sum_perm Finset.sum_mul_sum_eq_sum_perm
 
 end Finset
+
+theorem subtypePerm_apply_pow_of_mem {g : Perm α} {s : Finset α}
+    (hs : ∀ x : α, x ∈ s ↔ g x ∈ s) {n : ℕ} {x : α} (hx : x ∈ s) :
+    ((g.subtypePerm hs ^ n) (⟨x, hx⟩ : s) : α) = (g ^ n) x := by
+  revert x
+  induction n with
```
Comment (urkud) [inline Mathlib/GroupTheory/Perm/Cycle/Basic.lean:2088]: We usually use `induction n generalizing x` instead of `revert x; induction n <;> intro x`

Comment (AntoineChambert-Loir) [reply Mathlib/GroupTheory/Perm/Cycle/Basic.lean:2088]: That's indeed simpler; I'll adjust swiftly. Thanks!

File: Mathlib/GroupTheory/Perm/Cycle/Basic.lean [hunk 11]
```diff
@@ -1978,3 +2084,210 @@ theorem _root_.Finset.sum_mul_sum_eq_sum_perm (hσ : σ.IsCycleOn s) (f g : ι 
...
+    exact hx
+  · intro h; ext x
+    rw [← h]
+    by_cases hx : x ∈ s
+    · rw [ofSubtype_apply_of_mem]
+      simp only [subtypePerm_zpow, subtypePerm_apply]
+      exact hx
+    · rw [ofSubtype_apply_of_not_mem, ← not_mem_support]
+      exact fun hx' ↦ hx (hc (support_zpow_le _ _ hx'))
+      exact hx
```
Comment (Ruben-VandeVelde) [inline Mathlib/GroupTheory/Perm/Cycle/Basic.lean:2252]:
```suggestion
    · simp only [Subtype.coe_mk, subtypePerm_apply]
    · exact hx
  · intro h; ext x
    rw [← h]
    by_cases hx : x ∈ s
    · rw [ofSubtype_apply_of_mem]
      · simp only [subtypePerm_zpow, subtypePerm_apply]
      · exact hx
    · rw [ofSubtype_apply_of_not_mem, ← not_mem_support]
      · exact fun hx' ↦ hx (hc (support_zpow_le _ _ hx'))
      · exact hx
```

It's annoying you can't pass `hx` to `ofSubtype_apply_of_{not_,}mem` directly. Have you looked into why that is?

File: Mathlib/GroupTheory/Perm/Cycle/Basic.lean [hunk 12]
```diff
@@ -1978,3 +2084,210 @@ theorem _root_.Finset.sum_mul_sum_eq_sum_perm (hσ : σ.IsCycleOn s) (f g : ι 
...
+
+theorem cycle_zpow_mem_support_iff {g : Perm α}
+    (hg : g.IsCycle) {n : ℤ} {x : α} (hx : g x ≠ x) :
+    (g ^ n) x = x ↔ n % g.support.card = 0 := by
+  let q := n / g.support.card; let r := n % g.support.card
+  change _ ↔ r = 0
+  have div_euc : r + g.support.card * q = n ∧ 0 ≤ r ∧ r < g.support.card := by
+    rw [← Int.ediv_emod_unique _]
+    constructor; rfl; rfl
```
Comment (Ruben-VandeVelde) [inline Mathlib/GroupTheory/Perm/Cycle/Basic.lean:2261]:
```suggestion
    · exact ⟨rfl, rfl⟩
```

File: Mathlib/GroupTheory/Perm/Cycle/Basic.lean [hunk 13]
```diff
@@ -1978,3 +2084,210 @@ theorem _root_.Finset.sum_mul_sum_eq_sum_perm (hσ : σ.IsCycleOn s) (f g : ι 
...
+  simp only [← hg.orderOf] at div_euc
+  obtain ⟨m, hm⟩ := Int.eq_ofNat_of_zero_le div_euc.2.1
+  simp only [hm, Nat.cast_nonneg, Nat.cast_lt, true_and_iff] at div_euc
+  simp only [hm, Nat.cast_eq_zero]
+  rw [← div_euc.1, zpow_add g, zpow_mul, zpow_ofNat]
+  simp only [pow_orderOf_eq_one, zpow_ofNat, one_zpow, mul_one]
+  have : (g ^ m) x = x ↔ g ^ m = 1 := by
+    constructor
+    · intro hgm
+      simp [IsCycle.pow_eq_one_iff hg]
```
Comment (Ruben-VandeVelde) [inline Mathlib/GroupTheory/Perm/Cycle/Basic.lean:2273]:
```suggestion
      simp only [IsCycle.pow_eq_one_iff hg]
```

File: Mathlib/GroupTheory/Perm/Cycle/Basic.lean [hunk 14]
```diff
@@ -1978,3 +2084,210 @@ theorem _root_.Finset.sum_mul_sum_eq_sum_perm (hσ : σ.IsCycleOn s) (f g : ι 
...
+      use x
+    · intro hgm; rw [hgm]; simp only [coe_one, id.def]
+  rw [this, div_euc.1, ← hg.orderOf, hm]
+  cases' dec_em (m = 0) with hm0 hm0'
```
Comment (Ruben-VandeVelde) [inline Mathlib/GroupTheory/Perm/Cycle/Basic.lean:2277]: I really don't think you're going to avoid choice with a tactical use of `dec_em`. Please just use `by_cases` or something like `obtain rfl|hm0' := eq_or_ne m 0`

File: Mathlib/GroupTheory/Perm/ConjAct.lean [hunk 15]
```diff
@@ -0,0 +1,63 @@
...
+  ext c
+  rw [ConjAct.smul_def, ConjAct.ofConjAct_toConjAct]
+  rw [Finset.mem_map_equiv, ← mem_cycleFactorsFinset_conj_iff k⁻¹]
+  simp only [MulEquiv.toEquiv_eq_coe, MulEquiv.coe_toEquiv_symm, MulAut.conj_symm_apply]
+  group
+
+/-- A permutation `c` is a cycle of `g` iff `k • c` is a cycle of `k • g` -/
+theorem mem_cycleFactorsFinset_conj'
+    (k : ConjAct (Perm α)) (g c : Perm α) :
+    k • c ∈ (k • g).cycleFactorsFinset ↔ c ∈ g.cycleFactorsFinset := by
```
[the remark this answers is not in the document]
Comment (AntoineChambert-Loir) [reply Mathlib/GroupTheory/Perm/ConjAct.lean:51]: I have no experience about that. It looks like the right hand side is clearly simpler than the left hand side, which is of a very specific form, so that having this lemma tagged as simp should do no harm.

File: Mathlib/GroupTheory/Perm/Cycle/Basic.lean [hunk 16]
```diff
@@ -1510,21 +1514,114 @@ theorem cycle_is_cycleOf {f c : Equiv.Perm α} {a : α} (ha : a ∈ c.support)
...
+    c = g.cycleOf x ↔ x ∈ c.support := by
+  refine ⟨?_, (cycle_is_cycleOf · hc)⟩
+  rintro rfl
+  rw [mem_support, cycleOf_apply_self, Ne.def, ← cycleOf_eq_one_iff]
+  exact (mem_cycleFactorsFinset_iff.mp hc).left.ne_one
+
+/-- `k * c * k⁻¹` is a cycle of `k * g * k⁻¹` iff the permutation `c` is a cycle of `g` -/
+theorem mem_cycleFactorsFinset_conj_iff {g c : Perm α} (k : Perm α) :
+    k * c * k⁻¹ ∈ (k * g * k⁻¹).cycleFactorsFinset ↔ c ∈ g.cycleFactorsFinset := by
+  suffices imp_lemma : ∀ {g k c : Perm α},
```
[the remark this answers is not in the document]
Comment (AntoineChambert-Loir) [reply Mathlib/GroupTheory/Perm/Cycle/Basic.lean:1537]: It means I have to prove an iff, and I do that by proving the analogue theorem in the -> form (imp_lemma), and to prove the <- form, I apply `imp_lemma` to well chosen arguments.

File: Mathlib/GroupTheory/Perm/Cycle/Basic.lean [hunk 17]
```diff
@@ -1978,3 +2084,210 @@ theorem _root_.Finset.sum_mul_sum_eq_sum_perm (hσ : σ.IsCycleOn s) (f g : ι 
...
+    (g ^ m) x = (g ^ n) x ↔
+      m % (g.cycleOf x).support.card = n % (g.cycleOf x).support.card := by
+  rw [Int.emod_eq_emod_iff_emod_sub_eq_zero]
+  conv_lhs => rw [← Int.sub_add_cancel m n, Int.add_comm, zpow_add]
+  simp only [coe_mul, Function.comp_apply, EmbeddingLike.apply_eq_iff_eq]
+  rw [← Int.dvd_iff_emod_eq_zero]
+  rw [← cycleOf_zpow_apply_self g x, cycle_zpow_mem_support_iff]
+  · rw [← Int.dvd_iff_emod_eq_zero]
+  · exact isCycle_cycleOf g hx
+  · simp only [mem_support, cycleOf_apply_self]; exact hx
```
[the remark this answers is not in the document]
Comment (AntoineChambert-Loir) [reply Mathlib/GroupTheory/Perm/Cycle/Basic.lean:2293]: I'll have a look and thing at it.

File: Mathlib/GroupTheory/Perm/Cycle/Basic.lean [hunk 18]
```diff
@@ -1978,3 +2084,210 @@ theorem _root_.Finset.sum_mul_sum_eq_sum_perm (hσ : σ.IsCycleOn s) (f g : ι 
...
+          (g.subtypePerm (mem_cycleFactorsFinset_support hc)) := by
+  rw [IsCycle.commute_iff' (mem_cycleFactorsFinset_iff.mp hc).1]
+  apply exists_congr
+  intro hc'
+  simp only [Subgroup.mem_zpowers_iff]
+  apply exists_congr
+  intro n
+  unfold subtypePermOfSupport
+  rw [Equiv.Perm.subtypePerm_on_cycleFactorsFinset hc]
+  rfl
```
[the remark this answers is not in the document]
Comment (AntoineChambert-Loir) [reply Mathlib/GroupTheory/Perm/Cycle/Basic.lean:2231]: Yeah, I should track my uses of `unfold`, I never know when Lean will recognize some stuff when it's not visibly there.

File: Mathlib/GroupTheory/Perm/ConjAct.lean (hunk 15 above)
[the remark this answers is not in the document]
Comment (AntoineChambert-Loir) [reply Mathlib/GroupTheory/Perm/ConjAct.lean:51]: Let's try…

File: Mathlib/GroupTheory/Perm/Cycle/Basic.lean [hunk 19]
```diff
@@ -975,19 +977,21 @@ theorem cycleOf_inv (f : Perm α) (x : α) : (cycleOf f x)⁻¹ = cycleOf f⁻¹
...
 #align equiv.perm.cycle_of_pow_apply_self Equiv.Perm.cycleOf_pow_apply_self
 
 @[simp]
 theorem cycleOf_zpow_apply_self (f : Perm α) (x : α) :
     ∀ n : ℤ, (cycleOf f x ^ n) x = (f ^ n) x := by
   intro z
-  induction' z with z hz
-  · exact cycleOf_pow_apply_self f x z
-  · rw [zpow_negSucc, ← inv_pow, cycleOf_inv, zpow_negSucc, ← inv_pow, cycleOf_pow_apply_self]
+  induction z with
```
[the remark this answers is not in the document]
Comment (AntoineChambert-Loir) [reply Mathlib/GroupTheory/Perm/Cycle/Basic.lean:991]: This works, and I made the change, but what is the difference?

[the remark this answers is not in the document]
Comment (riccardobrasca) [reply Mathlib/GroupTheory/Perm/Cycle/Basic.lean:991]: For a natural number `n`, `cases n` gives you two cases: `n = 0` and `n = succ a`, but in the second case you don't have the induction hypothesis.

File: Mathlib/GroupTheory/Perm/Cycle/Basic.lean [hunk 20]
```diff
@@ -1510,21 +1514,114 @@ theorem cycle_is_cycleOf {f c : Equiv.Perm α} {a : α} (ha : a ∈ c.support)
...
+/-- If `x` and `y` are in the same cycle for `g`,
+  `c` is a cycle of `g`, and `y` belongs to the support of `c`,
+  then `c` is the cycle of `x` for `g`. -/
+theorem SameCycle.eq_cycleOf
+    {g : Perm α} (c : g.cycleFactorsFinset) {x y}
+    (hx : g.SameCycle y x) (hy : y ∈ support c):
+    c = g.cycleOf x := by
+  rw [cycle_is_cycleOf hy c.prop, SameCycle.cycleOf_eq hx]
+
+-- Useful?
```
[the remark this answers is not in the document]
Comment (AntoineChambert-Loir) [reply Mathlib/GroupTheory/Perm/Cycle/Basic.lean:1614]: I deleted it…

File: Mathlib/GroupTheory/Perm/Cycle/Basic.lean [hunk 21]
```diff
@@ -1978,3 +2084,210 @@ theorem _root_.Finset.sum_mul_sum_eq_sum_perm (hσ : σ.IsCycleOn s) (f g : ι 
 #align finset.sum_mul_sum_eq_sum_perm Finset.sum_mul_sum_eq_sum_perm
 
 end Finset
+
+theorem subtypePerm_apply_pow_of_mem {g : Perm α} {s : Finset α}
+    (hs : ∀ x : α, x ∈ s ↔ g x ∈ s) {n : ℕ} {x : α} (hx : x ∈ s) :
+    ((g.subtypePerm hs ^ n) (⟨x, hx⟩ : s) : α) = (g ^ n) x := by
+  induction n generalizing x with
+  | zero => -- zero case
```
[the remark this answers is not in the document]
Comment (AntoineChambert-Loir) [reply Mathlib/GroupTheory/Perm/Cycle/Basic.lean:2092]: deleted

File: Mathlib/GroupTheory/Perm/Cycle/Basic.lean [hunk 22]
```diff
@@ -1978,3 +2084,210 @@ theorem _root_.Finset.sum_mul_sum_eq_sum_perm (hσ : σ.IsCycleOn s) (f g : ι 
...
+    simp only [pow_zero, coe_one, id.def, Subtype.coe_mk]
+  | succ n hrec => -- induction case
+    simp only [pow_succ', coe_mul, Function.comp_apply]
+    apply hrec
+
+theorem subtypePerm_apply_zpow_of_mem {g : Perm α} {s : Finset α}
+    (hs : ∀ x : α, x ∈ s ↔ g x ∈ s) {i : ℤ} {x : α} (hx : x ∈ s) :
+    ((g.subtypePerm hs ^ i) (⟨x, hx⟩ : s) : α) = (g ^ i) x := by
+  induction i with
```
[the remark this answers is not in the document]
Comment (AntoineChambert-Loir) [reply Mathlib/GroupTheory/Perm/Cycle/Basic.lean:2101]: yes.

File: Mathlib/GroupTheory/Perm/Cycle/Basic.lean [hunk 23]
```diff
@@ -1978,3 +2084,210 @@ theorem _root_.Finset.sum_mul_sum_eq_sum_perm (hσ : σ.IsCycleOn s) (f g : ι 
...
+
+variable [Fintype α]
+
+/-- Restrict a permutation to its support -/
+def subtypePermOfSupport (c : Perm α) : Perm c.support :=
+  subtypePerm c fun _ : α => apply_mem_support.symm
+
+/-- Restrict a permutation to a Finset containing its support -/
+def subtypePerm_of_support_le (c : Perm α) {s : Finset α}
+    (hcs : c.support ≤ s) : Equiv.Perm s :=
```
[the remark this answers is not in the document]
Comment (AntoineChambert-Loir) [reply Mathlib/GroupTheory/Perm/Cycle/Basic.lean:2119]: yes.

File: Mathlib/GroupTheory/Perm/Cycle/Basic.lean [hunk 24]
```diff
@@ -1978,3 +2084,210 @@ theorem _root_.Finset.sum_mul_sum_eq_sum_perm (hσ : σ.IsCycleOn s) (f g : ι 
...
+    Commute g c ↔
+      ∃ hc' : ∀ x : α, x ∈ c.support ↔ g x ∈ c.support,
+        subtypePerm g hc' ∈ Subgroup.zpowers c.subtypePermOfSupport := by
+  constructor
+  · intro hgc
+    let hgc' := mem_support_iff_of_commute hgc
+    use hgc'
+    obtain ⟨a, ha⟩ := IsCycle.nonempty_support hc
+    have := hc.sameCycle (mem_support.mp ha) (mem_support.mp ((hgc' a).mp ha))
+    obtain ⟨i, hi⟩ := this; use i
```
[the remark this answers is not in the document]
Comment (AntoineChambert-Loir) [reply Mathlib/GroupTheory/Perm/Cycle/Basic.lean:2139]: yes

File: Mathlib/GroupTheory/Perm/Cycle/Basic.lean (hunk 11 above)
Comment (AntoineChambert-Loir) [reply Mathlib/GroupTheory/Perm/Cycle/Basic.lean:2252]: One can, but one needs to fill it a big share of the `subtypePerm`

File: Mathlib/GroupTheory/Perm/Cycle/Basic.lean (hunk 12 above)
Comment (AntoineChambert-Loir) [reply Mathlib/GroupTheory/Perm/Cycle/Basic.lean:2261]: OK.

File: Mathlib/GroupTheory/Perm/Cycle/Basic.lean (hunk 16 above)
[the remark this answers is not in the document]
Comment (AntoineChambert-Loir) [reply Mathlib/GroupTheory/Perm/Cycle/Basic.lean:1537]: an `iff` tactic would be nice.

File: Mathlib/GroupTheory/Perm/Cycle/Basic.lean (hunk 19 above)
[the remark this answers is not in the document]
Comment (AntoineChambert-Loir) [reply Mathlib/GroupTheory/Perm/Cycle/Basic.lean]: OK, here it's for Int, but nevertheless, the disjunction between the positive/negative cases does not use any induction hypothesis, just a reduction to the case of nat.

File: Mathlib/GroupTheory/Perm/Cycle/Basic.lean (hunk 17 above)
[the remark this answers is not in the document]
Comment (AntoineChambert-Loir) [reply Mathlib/GroupTheory/Perm/Cycle/Basic.lean:2311]: @riccardobrasca had already asked for that (for another PR!). There are many sensible places to split this file, it does too many things at once. In particular, since it consists of 5 independent sections, each of them could constitute one file. 
And Basic.lean could just import all of them so that the rest is unchanged.

**Comment by riccardobrasca** [comment]
I've merged master.

**Comment by riccardobrasca** [comment]
The new linter fired up, so I guess you have to split the file in another PR and then we can merge this one.

**Comment by riccardobrasca** [comment]
Note that I just kicked #10035 on the queue (I am not sure if it is relevant here).

**Comment by AntoineChambert-Loir** [comment]
I merged master and adjusted the files to the big split I had been led to do because `Equiv.Perm.Cycle.Basic` was becoming too big.

File: Mathlib/GroupTheory/Perm/Support.lean [hunk 25]
```diff
@@ -364,7 +371,47 @@ theorem apply_mem_support {x : α} : f x ∈ f.support ↔ x ∈ f.support := by
...
+    by_cases ha : a ∈ s
+    · rw [h a ha, ofSubtype_apply_of_mem]
+      rfl
+      exact ha
+    · rw [ofSubtype_apply_of_not_mem _ (by exact ha)]
+      apply symm
+      rw [← not_mem_support]
+      exact fun ha' ↦ ha (hc ha')
+
+-- Porting note: new theorem
```
Comment (Ruben-VandeVelde) [inline Mathlib/GroupTheory/Perm/Support.lean:414]:
```suggestion
-- Porting note (#10756): new theorem
```

File: Mathlib/GroupTheory/Perm/ConjAct.lean [hunk 26]
```diff
@@ -0,0 +1,65 @@
...
+
+namespace Equiv.Perm
+
+open scoped Pointwise
+
+variable {α : Type*} [DecidableEq α] [Fintype α]
+
+/-- `a : α` belongs to the support of `k • g` iff
+  `k⁻¹ * a` belongs to the support of `g` -/
+theorem conj_support_eq (k : ConjAct (Perm α)) (g : Perm α) (a : α) :
```
Comment (jcommelin) [inline Mathlib/GroupTheory/Perm/ConjAct.lean:34]:
```suggestion
theorem mem_conj_support (k : ConjAct (Perm α)) (g : Perm α) (a : α) :
```

File: Mathlib/GroupTheory/Perm/ConjAct.lean [hunk 27]
```diff
@@ -0,0 +1,65 @@
...
+    a ∈ (k • g).support ↔ ConjAct.ofConjAct k⁻¹ a ∈ g.support := by
+  simp only [mem_support, ConjAct.smul_def, not_iff_not, coe_mul,
+    Function.comp_apply, ConjAct.ofConjAct_inv]
+  apply Equiv.apply_eq_iff_eq_symm_apply
+
+theorem cycleFactorsFinset_conj (g k : Perm α) :
+    (ConjAct.toConjAct k • g).cycleFactorsFinset  =
```
Comment (jcommelin) [inline Mathlib/GroupTheory/Perm/ConjAct.lean:41]:
```suggestion
    (ConjAct.toConjAct k • g).cycleFactorsFinset =
```

File: Mathlib/GroupTheory/Perm/Cycle/Basic.lean [hunk 28]
```diff
@@ -985,3 +987,186 @@ theorem sum_mul_sum_eq_sum_perm (hσ : σ.IsCycleOn s) (f g : ι → α) :
...
+/-- Restrict a permutation to its support -/
+def subtypePermOfSupport (c : Perm α) : Perm c.support :=
+  subtypePerm c fun _ : α => apply_mem_support.symm
+
+/-- Restrict a permutation to a Finset containing its support -/
+def subtypePerm_of_support_le (c : Perm α) {s : Finset α}
+    (hcs : c.support ⊆ s) : Equiv.Perm s :=
+  subtypePerm c (isInvariant_of_support_le hcs)
+
+/- Four lemmas added but maybe for nothing worth -/
```
Comment (jcommelin) [inline Mathlib/GroupTheory/Perm/Cycle/Basic.lean:1014]: In that case I would leave them out of this PR, but save them somewhere. I guess they will remain in the big PR that depends on this one.

Comment (AntoineChambert-Loir) [reply Mathlib/GroupTheory/Perm/Cycle/Basic.lean:1014]: I can very well do that. In fact, I reworked largely the subsequent PR on branch#ACL/ConjClassCount and certainly many such lemmas are not used anymore.

Comment (AntoineChambert-Loir) [reply Mathlib/GroupTheory/Perm/Cycle/Basic.lean]: I deleted those lemmas.

File: Mathlib/GroupTheory/Perm/Cycle/Basic.lean [hunk 29]
```diff
@@ -985,3 +987,154 @@ theorem sum_mul_sum_eq_sum_perm (hσ : σ.IsCycleOn s) (f g : ι → α) :
...
+        ofSubtype (subtypePerm g hc') ∈ Subgroup.zpowers c := by
+  rw [IsCycle.commute_iff' hc]
+  apply exists_congr
+  intro hc'
+  simp only [Subgroup.mem_zpowers_iff]
+  apply exists_congr
+  intro k
+  unfold subtypePermOfSupport
+  rw [subtypePerm_zpow c k]
+  simp only [Equiv.ext_iff, subtypePerm_apply, Subtype.mk.injEq, Subtype.forall]
```
Comment (Ruben-VandeVelde) [inline Mathlib/GroupTheory/Perm/Cycle/Basic.lean:1075]:
```suggestion
  simp only [Perm.ext_iff, subtypePerm_apply, Subtype.mk.injEq, Subtype.forall]
```

File: Mathlib/GroupTheory/Perm/Cycle/Basic.lean [hunk 30]
```diff
@@ -985,3 +987,154 @@ theorem sum_mul_sum_eq_sum_perm (hσ : σ.IsCycleOn s) (f g : ι → α) :
...
+theorem IsCycle.commute_iff {g c : Perm α} (hc : c.IsCycle) :
+    Commute g c ↔
+      ∃ hc' : ∀ x : α, x ∈ c.support ↔ g x ∈ c.support,
+        ofSubtype (subtypePerm g hc') ∈ Subgroup.zpowers c := by
+  rw [IsCycle.commute_iff' hc]
+  apply exists_congr
+  intro hc'
+  simp only [Subgroup.mem_zpowers_iff]
+  apply exists_congr
+  intro k
```
Comment (Ruben-VandeVelde) [inline Mathlib/GroupTheory/Perm/Cycle/Basic.lean:1072]: You could make this a little shorter with
```suggestion
  simp_rw [hc.commute_iff', Subgroup.mem_zpowers_iff]
  refine exists_congr fun hc' => exists_congr fun k => ?_
```

File: Mathlib/GroupTheory/Perm/Cycle/Basic.lean [hunk 31]
```diff
@@ -985,3 +987,154 @@ theorem sum_mul_sum_eq_sum_perm (hσ : σ.IsCycleOn s) (f g : ι → α) :
...
+  unfold subtypePermOfSupport
+  rw [subtypePerm_zpow c k]
+  simp only [Equiv.ext_iff, subtypePerm_apply, Subtype.mk.injEq, Subtype.forall]
+  apply forall_congr'
+  intro a
+  by_cases ha : a ∈ c.support
+  · rw [imp_iff_right ha]
+    apply Eq.congr rfl
+    apply symm
+    exact ofSubtype_apply_of_mem _ (by exact ha)
```
Comment (Ruben-VandeVelde) [inline Mathlib/GroupTheory/Perm/Cycle/Basic.lean:1082]: Ugh, this is annoying, but this works:
```suggestion
  · rw [imp_iff_right ha, ofSubtype_apply_of_mem (p := (· ∈ c.support)) _ ha, subtypePerm_apply]
```
I tried with these lemmas:
```lean
lemma ofSubtype_subtypePerm_of_mem {p : α → Prop} [DecidablePred p] 
    {g : Perm α} {hg : ∀ (x : α), p x ↔ p (g x)}
    {a : α} (ha : p a) : (ofSubtype (g.subtypePerm hg)) a = g a := by
  apply ofSubtype_apply_of_mem
  apply ha

lemma ofSubtype_subtypePerm_of_mem' [DecidableEq α]
    {g c : Perm α} {hg : ∀ (x : α), x ∈ c.support ↔ g x ∈ c.support}
    {a : α} (ha : a ∈ c.support) : (ofSubtype (g.subtypePerm hg)) a = g a := by
  apply ofSubtype_apply_of_mem
  apply ha
```
but `ofSubtype_subtypePerm_of_mem'` is too specialized and `ofSubtype_subtypePerm_of_mem` doesn't work

File: Mathlib/GroupTheory/Perm/Cycle/Basic.lean [hunk 32]
```diff
@@ -985,3 +987,154 @@ theorem sum_mul_sum_eq_sum_perm (hσ : σ.IsCycleOn s) (f g : ι → α) :
...
+    {g c : Equiv.Perm α} {s : Finset α}
+    (hg : ∀ x, x ∈ s ↔ g x ∈ s) (hc : c.support ⊆ s) (n : ℤ) :
+    c ^ n = ofSubtype (g.subtypePerm hg) ↔
+      c.subtypePerm (isInvariant_of_support_le hc) ^ n = g.subtypePerm hg := by
+  constructor
+  · intro h; ext ⟨x, hx⟩; let h' := Perm.congr_fun h x
+    simp only [h', subtypePerm_apply_zpow_of_mem, Subtype.coe_mk, subtypePerm_apply]
+    rw [ofSubtype_apply_of_mem]
+    · simp only [Subtype.coe_mk, subtypePerm_apply]
+    · exact hx
```
Comment (Ruben-VandeVelde) [inline Mathlib/GroupTheory/Perm/Cycle/Basic.lean:1099]:
```suggestion
    rw [ofSubtype_apply_of_mem (p := (· ∈ s)) _ hx, Subtype.coe_mk, subtypePerm_apply]
```

File: Mathlib/GroupTheory/Perm/Cycle/Basic.lean [hunk 33]
```diff
@@ -985,3 +987,154 @@ theorem sum_mul_sum_eq_sum_perm (hσ : σ.IsCycleOn s) (f g : ι → α) :
...
+    exact fun b ↦ (ha b).elim
+
+theorem zpow_eq_ofSubtype_subtypePerm_iff
+    {g c : Equiv.Perm α} {s : Finset α}
+    (hg : ∀ x, x ∈ s ↔ g x ∈ s) (hc : c.support ⊆ s) (n : ℤ) :
+    c ^ n = ofSubtype (g.subtypePerm hg) ↔
+      c.subtypePerm (isInvariant_of_support_le hc) ^ n = g.subtypePerm hg := by
+  constructor
+  · intro h; ext ⟨x, hx⟩; let h' := Perm.congr_fun h x
+    simp only [h', subtypePerm_apply_zpow_of_mem, Subtype.coe_mk, subtypePerm_apply]
```
Comment (Ruben-VandeVelde) [inline Mathlib/GroupTheory/Perm/Cycle/Basic.lean:1096]:
```suggestion
  · intro h; ext ⟨x, hx⟩
    simp only [Perm.congr_fun h x, subtypePerm_apply_zpow_of_mem, Subtype.coe_mk, subtypePerm_apply]
```
or at least `have` rather than `let`

File: Mathlib/GroupTheory/Perm/Cycle/Factors.lean [hunk 34]
```diff
@@ -572,6 +587,73 @@ theorem cycle_is_cycleOf {f c : Equiv.Perm α} {a : α} (ha : a ∈ c.support)
...
+  simp only [coe_mul, Function.comp_apply, EmbeddingLike.apply_eq_iff_eq]
+  apply hc
+  rw [mem_support] at ha ⊢
+  contrapose! ha
+  simp only [mul_smul, ← Perm.smul_def] at ha ⊢
+  rw [ha]
+  simp only [Perm.smul_def, apply_inv_self]
+
+/- NB. The converse of the next theorem is false. Commuting with every cycle of `g`
+  means that we belong to the kernel of the action of `Equiv.Perm α` on `g.cycleFactorsFinset` -/
```
Comment (Ruben-VandeVelde) [inline Mathlib/GroupTheory/Perm/Cycle/Factors.lean:622]: This could go into the docstring

File: Mathlib/GroupTheory/Perm/Support.lean [hunk 35]
```diff
@@ -296,6 +296,13 @@ theorem support_congr (h : f.support ⊆ g.support) (h' : ∀ x ∈ g.support, f
   · rw [not_mem_support.mp hx, ← not_mem_support]
     exact fun H => hx (h H)
 
+/-- If g and c commute, then g stabilizes the support of c -/
+theorem mem_support_iff_of_commute {g c : Perm α} (hgc : Commute g c) (x : α) :
+    x ∈ c.support ↔ g x ∈ c.support := by
```
Comment (Ruben-VandeVelde) [inline Mathlib/GroupTheory/Perm/Support.lean:301]: Would it not make more sense to swap the sides of the iff, so the rhs is "simpler"?

File: Mathlib/GroupTheory/Perm/Support.lean [hunk 36]
```diff
@@ -326,6 +333,46 @@ theorem support_inv (σ : Perm α) : support σ⁻¹ = σ.support := by
 theorem apply_mem_support {x : α} : f x ∈ f.support ↔ x ∈ f.support := by
   rw [mem_support, mem_support, Ne, Ne, apply_eq_iff_eq]
 
+/-- The support of a permutation is invariant -/
+theorem isInvariant_of_support_le {c : Perm α} {s : Finset α}
+    (hcs : c.support ≤ s) (x : α) : x ∈ s ↔ c x ∈ s := by
```
Comment (Ruben-VandeVelde) [inline Mathlib/GroupTheory/Perm/Support.lean:338]: Ditto

File: Mathlib/GroupTheory/Perm/Support.lean [hunk 37]
```diff
@@ -326,6 +333,46 @@ theorem support_inv (σ : Perm α) : support σ⁻¹ = σ.support := by
...
+      use hc
+      intro _ a ha
+      rw [← h a, ofSubtype_apply_of_mem]
+      rfl
+      exact ha
+    · intro a ha
+      by_contra ha'
+      rw [mem_support, ← h a, ofSubtype_apply_of_not_mem] at ha
+      exact ha rfl
+      exact ha'
```
Comment (Ruben-VandeVelde) [inline Mathlib/GroupTheory/Perm/Support.lean:364]:
```suggestion
    constructor
    · intro a ha
      by_contra ha'
      rw [mem_support, ← h a, ofSubtype_apply_of_not_mem (p := (· ∈ s)) _ ha'] at ha
      exact ha rfl
    · intro _ a ha
      rw [← h a, ofSubtype_apply_of_mem (p := (· ∈ s)) _ ha, subtypePerm_apply]
```

File: Mathlib/GroupTheory/Perm/Support.lean [hunk 38]
```diff
@@ -326,6 +333,46 @@ theorem support_inv (σ : Perm α) : support σ⁻¹ = σ.support := by
...
+  · rintro ⟨hc, h⟩ a
+    specialize h (isInvariant_of_support_le hc)
+    by_cases ha : a ∈ s
+    · rw [h a ha, ofSubtype_apply_of_mem]
+      rfl
+      exact ha
+    · rw [ofSubtype_apply_of_not_mem _ (by exact ha)]
```
Comment (Ruben-VandeVelde) [inline Mathlib/GroupTheory/Perm/Support.lean:371]:
```suggestion
    · rw [h a ha, ofSubtype_apply_of_mem (p := (· ∈ s)) _ ha, subtypePerm_apply]
    · rw [ofSubtype_apply_of_not_mem (p := (· ∈ s)) _ ha]
```

File: Mathlib/GroupTheory/Perm/Cycle/Basic.lean [hunk 39]
```diff
@@ -985,3 +987,154 @@ theorem sum_mul_sum_eq_sum_perm (hσ : σ.IsCycleOn s) (f g : ι → α) :
...
+      suffices hi' : ∀ x ∈ c.support, g x = (c ^ i) x by
+        rw [hi' x hx, hi' (c x) (apply_mem_support.mpr hx)]
+        simp only [← mul_apply, ← zpow_add_one, ← zpow_one_add, add_comm]
+      -- proof of hi'
+      intro x hx
+      let hix := Perm.congr_fun hi ⟨x, hx⟩
+      simp only [← Subtype.coe_inj, subtypePermOfSupport, Subtype.coe_mk, subtypePerm_apply,
+        subtypePerm_apply_zpow_of_mem] at hix
+      exact hix.symm
+    · -- hx : x ∉ c.support
```
[the remark this answers is not in the document]
Comment (AntoineChambert-Loir) [reply Mathlib/GroupTheory/Perm/Cycle/Basic.lean:1056]: deleted. I also replaced `let` by `have`.

File: Mathlib/GroupTheory/Perm/Cycle/Basic.lean (hunk 31 above)
Comment (AntoineChambert-Loir) [reply Mathlib/GroupTheory/Perm/Cycle/Basic.lean:1082]: `ofSubtype_subtypePerm_of_mem` works if one gives it the correct argument `hg`. Thanks.

File: Mathlib/GroupTheory/Perm/Cycle/Factors.lean (hunk 34 above)
Comment (AntoineChambert-Loir) [reply Mathlib/GroupTheory/Perm/Cycle/Factors.lean:622]: done.

File: Mathlib/GroupTheory/Perm/Support.lean (hunk 35 above)
Comment (AntoineChambert-Loir) [reply Mathlib/GroupTheory/Perm/Support.lean:301]: yes. Done.

File: Mathlib/GroupTheory/Perm/Support.lean (hunk 36 above)
Comment (AntoineChambert-Loir) [reply Mathlib/GroupTheory/Perm/Support.lean:338]: In fact, maybe not: the issue, that appears later, is that the argument to`Equiv.Perm.subtypePerm` is written in this direction.

**Comment by AntoineChambert-Loir** [comment]
bot fix style

File: Mathlib/GroupTheory/Perm/Cycle/Basic.lean (hunk 32 above)
Comment (Ruben-VandeVelde) [reply Mathlib/GroupTheory/Perm/Cycle/Basic.lean:1086]: I don't see a change in response to this

File: Mathlib/GroupTheory/Perm/Support.lean (hunk 35 above)
Comment (Ruben-VandeVelde) [reply Mathlib/GroupTheory/Perm/Support.lean:301]: Or this

Comment (AntoineChambert-Loir) [reply Mathlib/GroupTheory/Perm/Support.lean:301]: The comment is tagged "pending", I don't know why, and it says that Cha ging the direction is a nuisance later on, because of mathlib's definition of subtypePerm, whose argument is precisely in this direction.

Comment (AntoineChambert-Loir) [reply Mathlib/GroupTheory/Perm/Support.lean:301]: I managed to have it pass.

File: Mathlib/GroupTheory/Perm/Cycle/Basic.lean (hunk 32 above)
Comment (AntoineChambert-Loir) [reply Mathlib/GroupTheory/Perm/Cycle/Basic.lean:1086]: See below.

File: Mathlib/GroupTheory/Perm/Basic.lean [hunk 40]
```diff
@@ -404,6 +404,16 @@ theorem subtypePerm_ofSubtype (f : Perm (Subtype p)) :
     subtypePerm (ofSubtype f) (mem_iff_ofSubtype_apply_mem f) = f :=
   Equiv.ext fun x => Subtype.coe_injective (ofSubtype_apply_coe f x)
 
+theorem ofSubtype_subtypePerm_of_mem {p : α → Prop} [DecidablePred p]
+    {g : Perm α} {hg : ∀ (x : α), p x ↔ p (g x)}
```
Comment (riccardobrasca) [inline Mathlib/GroupTheory/Perm/Basic.lean:408]: Why is `hg` implicit?

File: Mathlib/GroupTheory/Perm/Basic.lean [hunk 41]
```diff
@@ -404,6 +404,16 @@ theorem subtypePerm_ofSubtype (f : Perm (Subtype p)) :
...
+    {a : α} (ha : p a) : (ofSubtype (g.subtypePerm hg)) a = g a :=
+  ofSubtype_apply_of_mem (g.subtypePerm hg) ha
+
+theorem ofSubtype_subtypePerm_of_not_mem {p : α → Prop} [DecidablePred p]
```
Comment (riccardobrasca) [inline Mathlib/GroupTheory/Perm/Basic.lean:412]: Same.

File: Mathlib/GroupTheory/Perm/ConjAct.lean [hunk 42]
```diff
@@ -0,0 +1,64 @@
...
+  simp only [mem_support, ConjAct.smul_def, not_iff_not, coe_mul,
+    Function.comp_apply, ConjAct.ofConjAct_inv]
+  apply Equiv.apply_eq_iff_eq_symm_apply
+
+theorem cycleFactorsFinset_conj (g k : Perm α) :
+    (ConjAct.toConjAct k • g).cycleFactorsFinset =
+      Finset.map (MulAut.conj k).toEquiv.toEmbedding g.cycleFactorsFinset := by
+  ext c
+  rw [ConjAct.smul_def, ConjAct.ofConjAct_toConjAct]
+  rw [Finset.mem_map_equiv, ← mem_cycleFactorsFinset_conj g k]
```
Comment (riccardobrasca) [inline Mathlib/GroupTheory/Perm/ConjAct.lean:44]:
```suggestion
  rw [ConjAct.smul_def, ConjAct.ofConjAct_toConjAct, Finset.mem_map_equiv, ← mem_cycleFactorsFinset_conj g k]
```
maybe this is too long.

File: Mathlib/GroupTheory/Perm/Cycle/Basic.lean [hunk 43]
```diff
@@ -985,3 +987,141 @@ theorem sum_mul_sum_eq_sum_perm (hσ : σ.IsCycleOn s) (f g : ι → α) :
...
+    ext ⟨x, hx⟩
+    simp only [subtypePermOfSupport, Subtype.coe_mk, subtypePerm_apply]
+    rw [subtypePerm_apply_zpow_of_mem]
+    obtain ⟨j, rfl⟩ := hc.sameCycle (mem_support.mp ha) (mem_support.mp hx)
+    simp only [← mul_apply, Commute.eq (Commute.zpow_right hgc j)]
+    rw [← zpow_add, add_comm i j, zpow_add]
+    simp only [mul_apply, EmbeddingLike.apply_eq_iff_eq]
+    exact hi
+  · rintro ⟨hc', h⟩
+    obtain ⟨i, hi⟩ := h
```
Comment (riccardobrasca) [inline Mathlib/GroupTheory/Perm/Cycle/Basic.lean:1041]:
```suggestion
  · rintro ⟨hc', ⟨i, hi⟩
```
Untested.

File: Mathlib/GroupTheory/Perm/Cycle/Factors.lean [hunk 44]
```diff
@@ -575,6 +588,74 @@ theorem cycle_is_cycleOf {f c : Equiv.Perm α} {a : α} (ha : a ∈ c.support)
...
+  rw [mem_support, cycleOf_apply_self, ne_eq, ← cycleOf_eq_one_iff]
+  exact (mem_cycleFactorsFinset_iff.mp hc).left.ne_one
+
+/-- A permutation `c` is a cycle of `g` iff `k * c * k⁻¹` is a cycle of `k * g * k⁻¹` -/
+theorem mem_cycleFactorsFinset_conj (g k c : Perm α) :
+    k * c * k⁻¹ ∈ (k * g * k⁻¹).cycleFactorsFinset ↔ c ∈ g.cycleFactorsFinset := by
+  suffices imp_lemma : ∀ {g k c : Perm α},
+      c ∈ g.cycleFactorsFinset → k * c * k⁻¹ ∈ (k * g * k⁻¹).cycleFactorsFinset by
+    refine ⟨?_, imp_lemma⟩
+    intro h
```
Comment (riccardobrasca) [inline Mathlib/GroupTheory/Perm/Cycle/Factors.lean:606]:
```suggestion
    refine ⟨fun h ↦ _, imp_lemma⟩
```

**Review by riccardobrasca — APPROVED** [review]
Thanks!

bors d+

**Comment by riccardobrasca** [comment]
Can you please take into account my last comments? Thanks! (Feel free to merge it once done with those.)

bors r-

**Comment by AntoineChambert-Loir** [comment]
sorry to have missed your comments.

**Comment by riccardobrasca** [comment]
> sorry to have missed your comments.

No worries!

File: Mathlib/GroupTheory/Perm/Basic.lean (hunk 40 above)
Comment (AntoineChambert-Loir) [reply Mathlib/GroupTheory/Perm/Basic.lean:408]: I can make it explicit, but since it appeared in the goal, I had the idea that it could be inferred.

Comment (riccardobrasca) [reply Mathlib/GroupTheory/Perm/Basic.lean]: Ah that's possible. Do as you think it is more convenient.

File: Mathlib/GroupTheory/Perm/ConjAct.lean (hunk 42 above)
Comment (AntoineChambert-Loir) [reply Mathlib/GroupTheory/Perm/ConjAct.lean]: I applied this; it takes two lines anyway.

**Comment by riccardobrasca** [comment]
Thanks!

bors merge
